US08541429B2
Step 3: di-tert-butyl 1-(1-acetylpiperidin-4-yl)-2-benzoylhydrazine-1,2-dicarboxylate
To a solution of 28.6 g (0.11 mol) of N′-(1-acetylpiperidin-4-yl)benzohydrazide in 700 mL of acetonitrile, 53.19 g (0.44 mol) of 4-dimethylaminopyridine (DMAP) and 77.2 g (0.35 mol) of di-tert-butyldicarbonate were added. The mixture was stirred overnight, the solvent removed and the residue taken up with dichloromethane and washed with aqueous KHSO4 to remove DMAP. The organic layer was dried over sodium sulfate and evaporated to give 45 g of the title compound as an oil.

reactant | N′-(1-acetylpiperidin-4-yl)benzohydrazide | 0.11 mol, 28.6 g | C(C)(=O)N1CCC(CC1)NNC(C1=CC=CC=C1)=O | C14H19N3O2
reactant | di-tert-butyldicarbonate | 0.35 mol, 77.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.44 mol, 53.19 g | CN(C1=CC=NC=C1)C | C7H10N2
product | di-tert-butyl 1-(1-acetylpiperidin-4-yl)-2-benzoylhydrazine-1,2-dicarboxylate | 45 g | C(C)(=O)N1CCC(CC1)N(N(C(=O)OC(C)(C)C)C(C1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C24H35N3O6
